US07973047B2
Step 3: (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((5-propylthiazol-4-yl)methyl)oxazolidine-3-carboxylate
(4S,5S)-Tert-butyl 4-((2-(tert-butyldimethylsilyl)-5-propylthiazol-4-yl)methyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate was dissolved in THF (3 mL) and cooled to 0° C. when TBAF (0.808 ml, 0.808 mmol) was added. The reaction was stirred one hour before being quenched with saturated ammonium chloride. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with water, brine and dried over sodium sulfate to afford the title compound.

reactant | (4S,5S)-Tert-butyl 4-((2-(tert-butyldimethylsilyl)-5-propylthiazol-4-yl)methyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate | [Si](C)(C)(C(C)(C)C)C=1SC(=C(N1)C[C@@H]1N(C(O[C@@H]1CO[Si](C)(C)C(C)(C)C)(C)C)C(=O)OC(C)(C)C)CCC | C30H58N2O4SSi2
reactant | TBAF | 0.808 mmol, 0.808 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((5-propylthiazol-4-yl)methyl)oxazolidine-3-carboxylate | OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=CSC1CCC | C18H30N2O4S
